US04293465
Dicyclohexyl phosphine (40 g, 0.2 mole) was reacted with ethylene dibromide (18 g, 0.1 mole) for 2 hours at 90°-100° C. to form ethylenebis(dicyclohexylphosphine). The phosphine compound was then oxidized with 25 g of 30% hydrogen peroxide to give the phosphine oxide. The crude product was recrystallized from isopropanol/water to give 20 grams of the subject compound, m.p. 199°-201° C.

reactant | Dicyclohexyl phosphine | 0.2 mole, 40 g | C1(CCCCC1)PC1CCCCC1 | C12H23P
reactant | ethylene dibromide | 0.1 mole, 18 g | C(CBr)Br | C2H4Br2
product | ethylenebis(dicyclohexylphosphine) | C(CP(C1CCCCC1)C1CCCCC1)P(C1CCCCC1)C1CCCCC1 | C26H48P2
